US09314026B2
3-bromo-2-(4-fluorophenyl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole [IV-1]
To a solution of 2-(4-fluorophenyl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole (44.5 g, 0.22 mol) in 600 mL chloroform is added at 0° C. N-bromosuccinimide (117 g, 0.66 mol). The mixture is stirred 17 h at RT. Thereafter, the mixture is diluted with water and extracted with dichloromethane. The combined organic phases are dried and evaporated. The obtained crude material is purified by column chromatography on silica (6 cm×40 cm, eluent dichloromethane). The obtained product is further purified by trituration with a MTBE-hexane mixture and 38.2 g (61%) of the product are obtained as solid.

reactant | 2-(4-fluorophenyl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole | 0.22 mol, 44.5 g | FC1=CC=C(C=C1)C=1C=C2N(N1)CCC2 | C12H11FN2
reactant | N-bromosuccinimide | 0.66 mol, 117 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 600 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 3-bromo-2-(4-fluorophenyl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole | BrC1=C2N(N=C1C1=CC=C(C=C1)F)CCC2 | C12H10BrFN2
